US06136157
1-Naphthylacrylonitrile.
Table 1, Entry 4. In the reaction tube were mixed 1-iodonaphthalene (0.254 g, 1.0 mmol), acrylonitrile (0.066 g, 1.25 mmol), palladium acetate (0.00225 g, 0.01 mmol), triethylamine (0.50 ml) and 0.50 ml DMF.under nitrogen. The contents of the flask were irradiated for 3.50 min with an effect of 80 W. After cooling, the product mixture was poured into 25 ml water and was extracted three times with 25 ml DCM. The combined extracts were washed with 25 ml water and concentrated to an oil. The crude product was purified by column chromatography on silica gel using i-hexane/diethyl ether (2/1) as the eluent. The yield was 90% (white solid, trans/cis 4/1).

reactant | 1-iodonaphthalene | 1.0 mmol, 0.254 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | acrylonitrile | 1.25 mmol, 0.066 g | C(C=C)#N | C3H3N
reactant | triethylamine | 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 0.50 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.01 mmol, 0.00225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 25 ml | O | H2O
product | 1-Naphthylacrylonitrile | yield was 90% | C1(=CC=CC2=CC=CC=C12)C(C#N)=C | C13H9N
